US08252825B2
Step B: 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate
A N,N-dimethylformamide (20 mL) solution of (4R,5R)-4,5-bis(nitrooxy)hexyl 1-chloroethyl carbonate (1.15 g, 3.48 mmol) was added to a stirred N,N-dimethylformamide (20 mL) suspension of 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid (2.54 g, 3.74 mmol) and cesium carbonate (1.25 g, 3.84 mmol). The solution was stirred at 70° C. for 2 hours. Water (100 mL) was added, and the solution was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with 20-60% ethyl acetate/hexanes to give the title compound as a white solid. 1H NMR (500 MHz, CDCl3) δ 7.90 (d, J=7.4 Hz, 1H), 7.49 (dt, J=1.4, 7.6 Hz, 1H), 7.45 (dt, J=1.1, 7.5 Hz, 1H), 7.31-7.36 (m, 4H), 7.26 (t, J=7.8 Hz, 6H), 7.10 (d, J=8.0 Hz, 6H), 6.93 (d, J=7.8 Hz, 2H), 6.86 (q, J=5.5 Hz, 1H), 6.79 (d, J=8.0 Hz, 2H), 5.54 (d, J=15.4 Hz, 1H), 5.32 (d, J=16.2 Hz, 1H), 5.14-5.24 (m, 2H), 4.10-4.20 (m, 2H), 2.50 (t, J=7.8 Hz, 2H), 1.7-1.9 (m, 4H), 1.62 (quintet, J=7.7 Hz, 2H), 1.54 (d, J=5.5 Hz, 3H), 1.37 (d, J=6.1 Hz, 3H), 1.27 (sextet, J=7.4 Hz, 2H), 0.85 (t, J=7.3 Hz, 3H).

reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | (4R,5R)-4,5-bis(nitrooxy)hexyl 1-chloroethyl carbonate | 3.48 mmol, 1.15 g | C(OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-])(OC(C)Cl)=O | C9H15ClN2O9
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylic acid | 3.74 mmol, 2.54 g | C(CCC)C=1N(C(=C(N1)Cl)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H35ClN6O2
reactant | cesium carbonate | 3.84 mmol, 1.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | Water | 100 mL | O | H2O
product | 1-[({[(4R,5R)-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]ethyl 2-butyl-4-chloro-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-imidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)Cl)C(=O)OC(C)OC(=O)OCCC[C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C50H49ClN8O11
